US09376418B2
Pd(dppf)Cl2-dichloromethane adduct (40.8 mg, 0.05 mmol) and sodium carbonate (2 N, 1.5 mL, 3.0 mmol) were added to 1-(6-bromopyridin-2-yl)cyclobutanol (228 mg, 1.0 mmol) and 4-[3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine (0.2 N in DMF, 5.0 mL, 1.0 mmol) and the reaction mixture was purged and flushed with N2(g) (3×). The reaction mixture was heated to 100° C. for 4 hours, then cooled to room temperature, diluted with water, extracted with diethyl ether, washed with brine, dried over sodium sulfate, filtered an concentrated under reduced pressure. The crude product was purified by silica gel chromatography (ethyl acetate:hexanes) to afford 1-{6-[3-(morpholin-4-yl)-5-nitrophenyl]pyridin-2-yl}cyclobutanol. 1H NMR (500 MHz, CDCl3) δ 8.30-8.23 (m, 1H), 7.98-7.95 (m, 1H), 7.93, (t, J=7.2 Hz 1H), 7.79 (t, J=2.2, 1H), 7.74 (d, J=7.8, 1H), 7.66 (d, J=7.8, 1H), 5.36 (s, 1H), 4.03-3.84 (m, 4H), 3.46-3.29 (m, 4H), 2.82-2.47 (m, 4H), 2.27-2.09 (m, 1H), 2.05-1.91 (m, 1H).

reactant | sodium carbonate | 3.0 mmol, 2 N, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(6-bromopyridin-2-yl)cyclobutanol | 1.0 mmol, 228 mg | BrC1=CC=CC(=N1)C1(CCC1)O | C9H10BrNO
reactant | 4-[3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine | 1.0 mmol, 0.2 N, 5.0 mL | [N+](=O)([O-])C=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)N1CCOCC1 | C16H23BN2O5
catalyst | Pd(dppf)Cl2 dichloromethane | 0.05 mmol, 40.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 1-{6-[3-(morpholin-4-yl)-5-nitrophenyl]pyridin-2-yl}cyclobutanol | N1(CCOCC1)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC(=N1)C1(CCC1)O | C19H21N3O4
